US06743789B2
8-Chloro-5-(2,4-dimethoxy-benzyl)-N-hydroxy-6-oxo-5,6-dihydro-4H-2,5,10b-triaza-benzo[e]azulene-3-carboxamidine
8-Chloro-5-(2,4-dimethoxy-benzyl)-6-oxo-5,6-dihydro-4H-2,5,10b-triaza-benzo[e]azulene-3-carbonitrile (2 g, 4.9 mmol) and hydroxylamine HCl (1 g, 14.6 mmol) were suspended in DMF (10 mL) and treated slowly with a 5.4 M solution of sodium methylate in methanol (2.7 mL, 14.6 mmol). The yellow suspension was stirred overnight. The suspension was cooled in ice and diluted with water (20 mL) and stirred for 1 h in ice. The crystals were filtered off and washed with cold water (5 mL). One obtained white crystals (1.9 g, 89%). m/z 442 (MH+).

reactant | 8-Chloro-5-(2,4-dimethoxy-benzyl)-6-oxo-5,6-dihydro-4H-2,5,10b-triaza-benzo[e]azulene-3-carbonitrile | 4.9 mmol, 2 g | ClC1=CC2=C(N3C=NC(=C3CN(C2=O)CC2=C(C=C(C=C2)OC)OC)C#N)C=C1 | C21H17ClN4O3
reactant | hydroxylamine HCl | 14.6 mmol, 1 g | Cl.NO
reactant | sodium methylate | C[O-].[Na+]
reactant | methanol | 14.6 mmol, 2.7 mL | CO | CH4O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 20 mL | O | H2O
product | 8-Chloro-5-(2,4-dimethoxy-benzyl)-N-hydroxy-6-oxo-5,6-dihydro-4H-2,5,10b-triaza-benzo[e]azulene-3-carboxamidine | ClC1=CC2=C(N3C=NC(=C3CN(C2=O)CC2=C(C=C(C=C2)OC)OC)C(=N)NO)C=C1 | C21H20ClN5O4
